US08735627B2
Preparation of 3-nitro-1-phenylpropan-1-one (15)
The title compound was prepared from benzene and 3-nitropropanoyl chloride, according to example 2, affording compound (15) with 78% yield, mp 72-74° C.

reactant | 3-nitropropanoyl chloride | [N+](=O)([O-])CCC(=O)Cl | C3H4ClNO3
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 3-nitro-1-phenylpropan-1-one | [N+](=O)([O-])CCC(=O)C1=CC=CC=C1 | C9H9NO3
